US04110116
2-methyl-3-ethyl-5,7-dichloro-benzoxazole ethyl-sulphate.
A mixture of 2.0 g of 2-methyl-5,7-dichloro-benzoxazole and 2.5 ml of diethyl-sulphate was heated at 150° C for 40 minutes. By cooling, a solid cake was obtained. It was then ground in a mortar by washing repeatedly with ethyl ether. The product was employed without further purification.

reactant | 2-methyl-5,7-dichloro-benzoxazole | 2.0 g | CC=1OC2=C(N1)C=C(C=C2Cl)Cl | C8H5Cl2NO
reactant | diethyl-sulphate | 2.5 ml | C(C)OS(=O)(=O)OCC | C4H10O4S
product | 2-methyl-3-ethyl-5,7-dichloro-benzoxazole ethyl-sulphate | C(C)OS(=O)(=O)O.CC1OC2=C(N1CC)C=C(C=C2Cl)Cl | InChI=1S/C10H11Cl2NO.C2H6O4S/c1-3-13-6(2)14-10-8(12)4-7(11)5-9(10)13;1-2-6-7(3,4)5/h4-6H,3H2,1-2H3;2H2,1H3,(H,3,4,5)
